US07319104B2
2-Methyl-2-[4-(2-{[4-(trifluoromethyl)benzyl][4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}ethyl)phenoxy]propanoic acid
Similarly prepared from ethyl 2-[4-(2-{(aminocarbonothioyl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate and 3-bromo-1,1,1-trifluoroacetone.

reactant | ethyl 2-[4-(2-{(aminocarbonothioyl)[4-(trifluoromethyl)benzyl]amino}ethyl)phenoxy]-2-methylpropanoate | NC(=S)N(CCC1=CC=C(OC(C(=O)OCC)(C)C)C=C1)CC1=CC=C(C=C1)C(F)(F)F | C23H27F3N2O3S
reactant | 3-bromo-1,1,1-trifluoroacetone | BrCC(C(F)(F)F)=O | C3H2BrF3O
product | 2-Methyl-2-[4-(2-{[4-(trifluoromethyl)benzyl][4-(trifluoromethyl)-1,3-thiazol-2-yl]amino}ethyl)phenoxy]propanoic acid | CC(C(=O)O)(C)OC1=CC=C(C=C1)CCN(C=1SC=C(N1)C(F)(F)F)CC1=CC=C(C=C1)C(F)(F)F | C24H22F6N2O3S
